US04034088
Sodium hydride (50% suspension in mineral oil) (5.04 g.) is added, under a nitrogen atmosphere, to a solution of 2-mesyl-imidazole (15.3 g.) in dimethylformamide (130 cc.). Ethyl chloroacetate (12.9 g.) is then added. Reaction is allowed to take place for 20 hours, with stirring, at a temperature of about 20° C. The reaction mixture is then poured into water (4 liters) and extraction is effected using methylene chloride (1 liter). The methylene chloride extracts are washed with water, dried over sodium sulphate, treated with decolorising charcoal and then concentrated to dryness under reduced pressure (0.5 mm.Hg) to yield ethyl (2-mesyl-imidazol-1-yl)-acetate (21.4 g.) in the form of an oil.

reactant | Sodium hydride | 5.04 g | [H-].[Na+]
reactant | 2-mesyl-imidazole | 15.3 g | S(=O)(=O)(C)C=1NC=CN1 | C4H6N2O2S
reactant | Ethyl chloroacetate | 12.9 g | ClCC(=O)OCC | C4H7ClO2
reactant | water | 4 liters | O | H2O
solvent | dimethylformamide | 130 cc | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | ethyl (2-mesyl-imidazol-1-yl)-acetate | 21.4 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)OCC | C8H12N2O4S
